US04666504
Ethyl 5-aminocarbonyl-1-(3-chlorophenyl)-4-pyrazolecarboxylate.
A 2.5 g. portion of 4-carboxy-1-(3-chlorophenyl)-5-pyrazolecarboxamide was suspended in 50 ml. of absolute ethanol, made acid, and esterified and isolated as described in Example 14 above. The product was 1.64 g. of the desired product, m.p. 132°, and its elemental analysis was as follows.

reactant | 4-carboxy-1-(3-chlorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=CC=C1)Cl | C11H8ClN3O3
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 5-aminocarbonyl-1-(3-chlorophenyl)-4-pyrazolecarboxylate | NC(=O)C1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)OCC | C13H12ClN3O3
